US06642394B2
A glass flask equipped with a stirrer, two dropping funnels, a thermometer and a Dimroth condenser was charged with 16.6 g (0.1 mol) of 2-methyl-2-adamantanol, 23.1 g (0.15 mol) of methacrylic anhydride of 97% purity which is obtained by the process of example 1, 15.7 g (0.155 mol) of triethylamine, 0.6 g (0.005 mol) of dimethylaminopyridine, 70 ml of toluene and 0.005 g of HO-TEMPO, and the mixture was heated and stirred at 50° C. for 31 hours. It was confirmed that 2-methyl-2-adamantyl methacrylate was formed in the reaction mixture in a yield of about 40%. The resultant 2-methyl-2-adamantyl methacrylate was chromatographed on silica gel to obtain 9.1 g of 2-methyl-2-adamantyl methacrylate.

reactant | 2-methyl-2-adamantanol | 0.1 mol, 16.6 g | CC1(C2CC3CC(CC1C3)C2)O | C11H18O
reactant | methacrylic anhydride | 0.15 mol, 23.1 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | triethylamine | 0.155 mol, 15.7 g | C(C)N(CC)CC | C6H15N
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | dimethylaminopyridine | 0.005 mol, 0.6 g, yield of about 40% | CN(C)C1=NC=CC=C1 | C7H10N2
